US07700641B2
C. Synthesis of ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained: MS (ES+) m/z 364 (M−17), 404 (M+23).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)C=1C=C2CCCC2=CC1O)=O)=O | C21H21NO4
product | ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(CO)C=1C=C2CCCC2=CC1O)=O)=O | C22H23NO5
